US06365602B1
A solution of ethyl 3-bromo-6-methoxy-1-naphthoate (Wrobel, et al; J. Med. Chem. 34, 2504 (1991) (206 mg, 0.66 mmol), Zn(CN)2, and tetrakis(triphenylphosphine) palladium (36 mg, 0.031 mmol) in DMF (12 mL) was stirred at 80° C. for 1 h. The mixture was diluted with DCM, washed with water, dried (MgSO4), filtered and concentrated to a yellow precipitate, and purified by chromatography (5% EtOAc in hexanes) to afford methyl 3-cyano-6-methoxy-1-naphthoate as a white powder (150 mg, 0.588 mmol, 88%). The ester was saponified by stirring in 2% water in THF with 1.5 equivalents of LiOH at 80° C. for 3 h to afford the title compound. 1H NMR (CDCl3) δ 8.99 (d, J=9.6, 1H), 8.33 (s, 1H), 7.45 (dd, J=9.3, 2.7, 1H), 7.26 (s, 1H), 7.22 (d, J=2.4, 1H).

reactant | ethyl 3-bromo-6-methoxy-1-naphthoate | BrC=1C=C(C2=CC=C(C=C2C1)OC)C(=O)OCC | C14H13BrO3
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Zn(CN)2 | [C-]#N.[C-]#N.[Zn+2]
catalyst | tetrakis(triphenylphosphine) palladium | 0.031 mmol, 36 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 3-cyano-6-methoxy-1-naphthoate | 0.588 mmol, 150 mg, 88% | C(#N)C=1C=C(C2=CC=C(C=C2C1)OC)C(=O)OC | C14H11NO3
